US04451484
To a stirred solution of ethyl 2-[2-(2-aminophenyl)ethenyl]benzoate (13.5 grams, 0.05 mole) in warm glacial acetic acid (75 ml) was added a solution of concentrated hydrochloric acid (12 ml) in water (10 ml). The mixture was cooled to 0°, and during a 20 minute period a solution of sodium nitrite (3.7 grams, 0.054 mole) in water (30 ml) was added. The resultant mixture was stirred at 0°-5° for three hours. During a 90 minute period the mixture was added to a refluxing solution of copper sulfate (35 grams, 0.14 mole) in water (500 ml). After complete addition, glacial acetic acid (40 ml) was added and the mixture refluxed for one hour. The mixture was cooled to room temperature and extracted with three 200 ml portions of methylene chloride. The extracts were combined, washed with water, and evaporated under reduced pressure to give a brown oil. Distillation of the oil under reduced pressure gave ethyl 9,10-dihydrophenanthrene-1-carboxylate (5.5 grams, bp 145°-165°/0.25 mm) as a yellow oil.

reactant | ethyl 2-[2-(2-aminophenyl)ethenyl]benzoate | 0.05 mole, 13.5 grams | NC1=C(C=CC=C1)C=CC1=C(C(=O)OCC)C=CC=C1 | C17H17NO2
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | sodium nitrite | 0.054 mole, 3.7 grams | N(=O)[O-].[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 500 ml | O | H2O
catalyst | copper sulfate | 0.14 mole, 35 grams | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | ethyl 9,10-dihydrophenanthrene-1-carboxylate | 5.5 grams | C1(=CC=CC=2C3=CC=CC=C3CCC12)C(=O)OCC | C17H16O2
